US20010053851A1
A solution of 3-cyclopentyl-2-[4-(3-morpholin-4-yl-prop-1-ynyl)-phenyl]-propionic acid (171 mg, 0.50 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (332 mg, 0.75 mmol), triethylamine (0.21 mL, 1.50 mmol) and 2-aminothiazole (86 mg, 0.86 mmol) in methylene chloride (5 mL) was stirred at 25° C. for 2 h. At this time, the reaction was diluted with methylene chloride (10 mL). This solution was washed with water (1×10 mL), a 1N aqueous sodium hydroxide solution (1×10 mL), and a half-saturated aqueous sodium chloride solution (1×10 mL). The aqueous layers were back extracted with methylene chloride (1×10 mL). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 98/2 ethyl acetate/methanol) afforded 3-cyclopentyl-2-[4-(3-morpholin-4-yl-prop-l-ynyl)-phenyl]-N-thiazol-2-yl-propionamide (151 mg, 71.2%) as a white foam: EI-HRMS m/e calcd for C24H29N3O2S (M+) 423.1980, found 423.1980.

reactant | 3-cyclopentyl-2-[4-(3-morpholin-4-yl-prop-1-ynyl)-phenyl]-propionic acid | 0.50 mmol, 171 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)C#CCN1CCOCC1 | C21H27NO3
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.75 mmol, 332 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 1.50 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
reactant | 2-aminothiazole | 0.86 mmol, 86 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-[4-(3-morpholin-4-yl-prop-l-ynyl)-phenyl]-N-thiazol-2-yl-propionamide | 151 mg, 71.2% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)C#CCN1CCOCC1 | C24H29N3O2S
